US06610502B1
To a solution of (2S*)-2-[N-(carbobenzyloxy)amino]-3-[2-(2,3,4,6-tetra-O-benzyl-α-D-mannopyranosyl)indole-3-yl]propionic acid [compound (XII-2) wherein R1 to R4 are benzyl and Ar is phenyl](90.5 mg (0.11 mmol)) in ethanol (25 ml) was added 20% palladium hydroxide-carbon catalyst (75 mg) and the mixture was stirred at about 60° C. for about 11 hours under atmospheric pressure in the presence of hydrogen. The reacted solution was filtrated on Celite and the filtrate was concentrated. The residue was fractionated by high performance liquid chromatography [column: YMC-Pack ODS-AM SH-365-10AM, 500×30 mm, S-10, 120Å; temperature: room temperature; migrating layer: 5% acetonitrile-water; flow rate: 40 ml/min.; detection: 278 nm (UV)] and then freeze-dried to give 24 mg (yield 62%) of (2S*)-2-amino-3-[2-(α-D-mannopyranosyl)indole-3-yl]propionic acid [compound (XIII-2)].

reactant | (2S*)-2-[N-(carbobenzyloxy)amino]-3-[2-(2,3,4,6-tetra-O-benzyl-α-D-mannopyranosyl)indole-3-yl]propionic acid | 0.11 mmol, 90.5 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C(=O)O)CC1=C(NC2=CC=CC=C12)[C@@H]1[C@@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C53H52N2O9
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium hydroxide carbon | 75 mg | [OH-].[Pd+2].[OH-].[C]
product | (2S*)-2-amino-3-[2-(α-D-mannopyranosyl)indole-3-yl]propionic acid | 24 mg, yield 62% | N[C@H](C(=O)O)CC1=C(NC2=CC=CC=C12)[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C17H22N2O7
